US06194409B1
Liquid ammonia (220 mL) was added to a solution of 32.8 g of 1-chloro-7-methoxy-isoquinoline in 420 mL of ethanol in a steel vessel. Nitrogen was pressed upon until an initial pressure of 20 atm. was obtained. This reaction mixture was heated for 2 days at 170° C. The solvent was removed in vacuo and the residue dissolved in water. The pH value was adjusted to pH 10 by adding aqueous sodium carbonate solution, followed by extraction with ethyl acetate. The organic extract was washed with brine and dried (Na2SO4). Evaporation of the solvent in vacuo gave pure 7-methoxy-isoquinolin-1-ylamine as a white solid. Yield 24.0 g (81%); m.p. 128-130° C.

reactant | ammonia | 220 mL | N | H3N
reactant | 1-chloro-7-methoxy-isoquinoline | 32.8 g | ClC1=NC=CC2=CC=C(C=C12)OC | C10H8ClNO
solvent | ethanol | 420 mL | C(C)O | C2H6O
product | 7-methoxy-isoquinolin-1-ylamine | COC1=CC=C2C=CN=C(C2=C1)N | C10H10N2O
